US06465490B1
{1-[2-(4-Fluoro-phenyl)-ethyl]-piperidin-4-yl}-(3-hydroxy-2-methoxy-phenyl)-methanone
Add to a solution of {1-[2-(4-fluoro-phenyl)-ethyl]-piperidin-4-yl}-(2-methoxy-3-triisopropylsilanyloxy-phenyl)-methanone, Example 2C (1.80 g, 3.50 mmol) in dry THF (5 mL) at ca. 20° C. under nitrogen, 1.0 M tetrabutylammonium fluoride in THF (4.55 mL, 4.55 mmol). After stirring 5 h, dilute the reaction with brine (100 mL) and extract with CH2Cl2 (3 ×75 mL). Dry the extracts (Na2SO4) and concentrate under vacuum. Purify the crude product by column chromatography over silica gel eluting initially with 50:50 ethyl acetate/hexane then 5:95 methanol/ethyl acetate giving the product as an oil (Rf˜0.2 in ethyl acetate), which solidifies after standing. Triturate the solid with hexanes and recrystallize from hot ether (˜30 mL) by cooling and concentrating under a nitrogen stream to ˜10 mL. Collect the resulting slightly orange crystals to obtain 1.04 g (83 %) of the title compound, mp 100-101° C.

reactant | {1-[2-(4-fluoro-phenyl)-ethyl]-piperidin-4-yl}-(2-methoxy-3-triisopropylsilanyloxy-phenyl)-methanone | FC1=CC=C(C=C1)CCN1CCC(CC1)C(=O)C1=C(C(=CC=C1)O[Si](C(C)C)(C(C)C)C(C)C)OC | C30H44FNO3Si
reactant | tetrabutylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | brine | 100 mL | [Cl-].[Na+].O
solvent | THF | 4.55 mmol, 4.55 mL | C1CCOC1 | C4H8O
product | {1-[2-(4-Fluoro-phenyl)-ethyl]-piperidin-4-yl}-(3-hydroxy-2-methoxy-phenyl)-methanone | 1.04 g, 83 % | FC1=CC=C(C=C1)CCN1CCC(CC1)C(=O)C1=C(C(=CC=C1)O)OC | C21H24FNO3
